data/mechanism_extracts/ChemCommun/10.1039_D1CC04813A.json
{"doi": "10.1039_D1CC04813A", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical vicinal fluorosulfonylation of styrenes using arylsulfonyl hydrazides and Et3N·3HF via a radical-polar crossover pathway", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of arylsulfonyl hydrazide to arylsulfonyl radical (with loss of N2, 3H+, 3e-); subsequent anodic oxidation of the benzyl radical adduct to a benzyl cation", "key_intermediates": [{"name": "arylsulfonyl hydrazide (A)", "smiles": "ClC1=CC=C(C=C1)S(=O)(=O)NN", "role": "reactive"}, {"name": "arylsulfonyl radical (B)", "smiles": "ClC1=CC=C(C=C1)S(=O)(=O)[*]", "role": "reactive"}, {"name": "benzyl radical adduct (C)", "smiles": null, "role": "transient"}, {"name": "benzyl cation intermediate (D)", "smiles": null, "role": "reactive"}, {"name": "β-fluorosulfone product (E)", "smiles": null, "role": "reactive"}], "electron_flow": "The anode oxidizes the arylsulfonyl hydrazide through consecutive SET (losing 3H+, 3e-, N2) to form an arylsulfonyl radical, which adds to the styrene to give a benzyl radical; this radical is further oxidized at the anode to a benzyl cation that is captured by fluoride from Et3N·3HF, while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "(1-(2-phenylcyclopropyl)-vinyl)benzene (radical clock)", "smiles": "C(=C)(c1ccccc1)C1CC1c1ccccc1", "purpose": "radical_clock", "observation": "Ring-opened fluorosulfonylation product (40) obtained in 15% yield, supporting a radical intermediate"}, {"name": "N-methyl-N-phenylmethacrylamide", "smiles": "CN(c1ccccc1)C(=O)C(=C)C", "purpose": "radical_trap", "observation": "Radical cyclization product (42) obtained in 42% yield in absence of Et3N·3HF, supporting arylsulfonyl radical generation"}, {"name": "Cyclic voltammetry of ArSO2NHNH2 and styrene", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peak of arylsulfonyl hydrazide at 1.70 V (vs Ag/AgCl); styrene at 2.52 V (shifted to 2.36 V with (NH4)2HPO4), indicating sulfonyl hydrazide is preferentially oxidized"}], "evidence_types_used": ["radical_clock", "intermediate_trap_other", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Authors propose that anode-adsorbed HPO4^2- may H-bond with hydrofluoride to enhance nucleophilic fluorination, accounting for the beneficial additive effect of (NH4)2HPO4. Unactivated olefins (cyclohexene, 1-octene) fail, attributed to instability of the corresponding carbocation, further supporting the radical-polar crossover (cation) pathway over a pure radical chain."}
